US05041455
B. 3-(4-methylthio-1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide
Methyl iodide (1 ml, 15 mmol) was added to a solution of 3-(4-methylthio-1,2,5-thiadiazol-3-yl)pyridine (0.5 g, 2.3 mmol) and the reaction mixture was stirred at room temperature for 48 h and evaporated.

reactant | Methyl iodide | 15 mmol, 1 ml | CI | CH3I
reactant | 3-(4-methylthio-1,2,5-thiadiazol-3-yl)pyridine | 2.3 mmol, 0.5 g | CSC=1C(=NSN1)C=1C=NC=CC1 | C8H7N3S2
product | 3-(4-methylthio-1,2,5-thiadiazol-3-yl)-1-methylpyridinium iodide | [I-].CSC=1C(=NSN1)C=1C=[N+](C=CC1)C | InChI=1S/C9H10N3S2.HI/c1-12-5-3-4-7(6-12)8-9(13-2)11-14-10-8;/h3-6H,1-2H3;1H/q+1;/p-1
